US06740647B1
e) 5-Aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide
Ammonia gas was passed for 20 minutes at −10° C. into a solution of 6.8 g (not more than 23.2 mmol) of ethyl 5-aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxylate in 200 ml of ethanol. Stirring was continued for one hour at 0° C. and overnight at room temperature. Since the reaction was incomplete, the procedure of passing in gas was repeated twice more (as described above) and the mixture was stirred overnight at 0° C. The mixture was concentrated on a rotary evaporator and the residue was purified by column chromatography (dichloromethane +5-10% methanol, Rf=0.3 in dichloromethane/methanol 9:1). This gave 4.71 g as colorless oil. 1H NMR (270 MHz, DMSO-d6): δ=1.4 (s, 9H), 3.85 (s, 3H), 4.3 (d, J=5 Hz, 3H), 7.4 (bs, 1H), 7.6 (bs, 1H), 7.65 (bs, J=5 Hz, 1H).

reactant | Ammonia | N | H3N
reactant | ethyl 5-aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxylate | not more than 23.2 mmol, 6.8 g | NCC1=NC(=NN1C)C(=O)OCC | C7H12N4O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 5-Aminomethyl-1-methyl-1H-[1,2,4]-triazole-3-carboxamide | NCC1=NC(=NN1C)C(=O)N | C5H9N5O
